US05175164
Step A: Preparation of 2-carbomethoxy 4,5-dichlorobenzoic acid
To a solution of 4,5-dichlorophthalic anhydride (1.0 g, 4.61 mmol) in 15 mL of methanol was added 0.25 g (9.22 mmol, 2.0 eq) of sodium methoxide. The suspension was stirred for 3 days and the methanol was removed in vacuo. The resultant white solid was suspended in 500 mL of CH2Cl2 and washed with 1N HCl. The organic phase was dried over anhydrous Na2SO4, filtered and the volatiles removed in vacuo to yield 1.06 g (92.5%) of the titled compound as a white powder.

reactant | 4,5-dichlorophthalic anhydride | 4.61 mmol, 1.0 g | ClC=1C=C2C(C(=O)OC2=O)=CC1Cl | C8H2Cl2O3
reactant | sodium methoxide | 9.22 mmol, 0.25 g, 2.0 eq | C[O-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
product | 2-carbomethoxy 4,5-dichlorobenzoic acid | 1.06 g, 92.5% | C(=O)(OC)C1=C(C(=O)O)C=C(C(=C1)Cl)Cl | C9H6Cl2O4
